US08044052B2
tert-Butyl 4-(3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.8 g, 2.09 mmol) in DMF (5 mL) cooled to 0° C. was added trifluoromethyliodide (548.9 mg, 2.614 mmol) and Cs2CO3 (1.3 gm, 4.18 mmol). The reaction mixture was stirred at 80° C. overnight. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate three times. The organic layer was washed with water and brine solution, dried over Na2SO4 and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (1:19 acetone:hexane) to give the title compound (360 mg, 37%). 1H NMR (500 MHz, CDCl3): δ 7.91 (d, J=2.8 Hz, 1H), 7.31 (m, 2H), 7.0 (d, J=7.75 Hz, 1H), 6.89 (m, 3H), 6.33 (s, 1H), 4.33 (q, J=8 Hz, 2H), 3.49 (m, 2H), 3.39 (m, 2H), 2.45 (m, 2H), 2.31 (m, 2H), 1.47 (s, 9H); m/z (465.1, M+ H+).

reactant | tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 2.09 mmol, 0.8 g | OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H26N2O4
reactant | trifluoromethyliodide | 2.614 mmol, 548.9 mg | FC(F)(F)I | CF3I
reactant | Cs2CO3 | 4.18 mmol, 1.3 gm | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | tert-Butyl 4-(3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 360 mg, 37% | FC(COC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)(F)F | C24H27F3N2O4
